US04922006
0.33 g (0.0015 mol) of L-homoalanin-4-yl(methyl)phosphinic acid chloride are dissolved in 15 ml of ethanol/water and mixed with 0.3 g (0.005 mol) of propeneoxide. After allowing to stand for one day at room temperature, 0.22 g (80.1% of theory) of L-homoalanin-4-yl(methyl)phosphinic acid is obtained as a white solid with a melting point of 212°-214° C. (decomposes); [α]D22 =14.7° (c=0.984 in H2O).

reactant | L-homoalanin-4-yl(methyl)phosphinic acid chloride | 0.0015 mol, 0.33 g | N[C@@H](CCP(=O)(C)Cl)C(=O)O | C5H11ClNO3P
reactant | propeneoxide | 0.005 mol, 0.3 g | C1C(C)O1 | C3H6O
solvent | ethanol water | 15 ml | C(C)O.O
product | L-homoalanin-4-yl(methyl)phosphinic acid | 0.22 g, 80.1% | N[C@@H](CCP(O)(=O)C)C(=O)O | C5H12NO4P
